US07691882B2
3-(3-(4-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a solution of 3-ethynyl-pyridin-2,6-diamine (170 mg, 28 mmol) described in Manufacturing Example 13-1-3 in anhydrous tetrahydrofuran (10 mL) was added (4-phenoxy-benzene)-acetohydroximoyl chloride (652 mg, 2.49 mmol) described in Manufacturing Example 17-1-4 under nitrogen atmosphere at room temperature. Triethylamine (714 μL, 5.12 mmol) was then added dropwise, and stirred for 1 hour at room temperature. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:2 then 2:1) to obtain the title compound (314 mg, 68%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 28 mmol, 170 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (4-phenoxy-benzene)-acetohydroximoyl chloride | 2.49 mmol, 652 mg | C(C)(=NO)Cl.O(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Triethylamine | 5.12 mmol, 714 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 314 mg, 68% | O(C1=CC=CC=C1)C1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H18N4O2
